US03965095
EXAMPLE 1: 4-(3-allylamino-2 -hydroxypropoxy)oxindole [compound of formula IIa]
3 g of 4-(2,3-epoxypropoxy)oxindole, 30 cc of allylamine and 70 cc of dioxane are heated to the boil for 16 hours. The mixture is evaporated to dryness at reduced pressure and the crude title compound is recrystallized from ethanol/ethyl acetate. M.P. 124°-127° .

reactant | 4-(2,3-epoxypropoxy)oxindole | 3 g | O1C(COC2=C3CC(NC3=CC=C2)=O)C1 | C11H11NO3
reactant | allylamine | 30 cc | C(C=C)N | C3H7N
solvent | dioxane | 70 cc | O1CCOCC1 | C4H8O2
product | 4-(3-allylamino-2 -hydroxypropoxy)oxindole | C(C=C)NCC(COC1=C2CC(NC2=CC=C1)=O)O | C14H18N2O3
